US20010049385A1
Phosphorus tribromide (6.4 ml, 67.3 mmol) was added dropwise to a solution of [2-(4-fluorobenzyl)phenyl]methanol (5.2 g, 24.05 mmol) in dioxane (125 ml). The reaction mixture was stirred for 1 hour at room temperature. Another portion of phosphorus tribromide (6.4 ml, 67.3 mmol) was added. The reaction mixture was stirred for 16 hours at room temperature. Water (60 ml) was added at 0° C. The reaction mixture was stirred for 30 min. Ethyl acetate (100 ml) was added. The phases were separated. The aqueous phase was washed with 1 N hydrochloric acid (100 ml). The combined aqueous phases were extracted with ethyl acetate (3×60 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogencarbonate (100 ml) and dried over magnesium sulphate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (90 g), using ethyl acetate/heptane 1:3 as eluent, to give 5.96 g of 2-(4-fluorobenzyl)benzyl bromide.

reactant | Phosphorus tribromide | 67.3 mmol, 6.4 ml | P(Br)(Br)Br | Br3P
reactant | [2-(4-fluorobenzyl)phenyl]methanol | 24.05 mmol, 5.2 g | FC1=CC=C(CC2=C(C=CC=C2)CO)C=C1 | C14H13FO
reactant | phosphorus tribromide | 67.3 mmol, 6.4 ml | P(Br)(Br)Br | Br3P
reactant | Water | 60 ml | O | H2O
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 125 ml | O1CCOCC1 | C4H8O2
product | 2-(4-fluorobenzyl)benzyl bromide | 5.96 g | FC1=CC=C(CC2=C(CBr)C=CC=C2)C=C1 | C14H12BrF
